US09278983B2
To a mixture of (2,6-dinitro-4-trifluoromethyl-phenyl)-methyl-amine (5.0 g), acetic acid (11 mL), ethanol (100 ml), and ice (20 g), iron powder (6.4 g) was added under ice-cooling. The reaction mixture was stirred at 0° C. for 3.5 hours, and filtered through Celite®. The resulting filtrate was concentrated under reduced pressure, and diluted with 1N aqueous sodium hydroxide solution. The solution was extracted with ethyl acetate. The combined organic layer was dried over sodium sulfate, and concentrated under reduced pressure to give 3.1 g of N′-methyl-5-trifluoromethyl-benzene-1,2,3-triamine. N′-methyl-5-trifluoromethyl-benzene-1,2,3-triamine

reactant | (2,6-dinitro-4-trifluoromethyl-phenyl)-methyl-amine | 5.0 g | [N+](=O)([O-])C1=C(C(=CC(=C1)C(F)(F)F)[N+](=O)[O-])NC | C8H6F3N3O4
reactant | acetic acid | 11 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 6.4 g | [Fe] | Fe
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | N′-methyl-5-trifluoromethyl-benzene-1,2,3-triamine | 3.1 g | CNC1=C(C=C(C=C1N)C(F)(F)F)N | C8H10F3N3
